US04325949
m-Fluorobenzimidoylacetonitrile
A 1.21 g. portion of m-fluorobenzonitrile, 0.52 ml. of acetonitrile, 0.5 g. of sodium hydride and 0.1 ml. of t-butanol are added to 25 ml. of ether. The mixture is refluxed on a steam bath for one hour. Methanol and water are added. The layers are separated and the aqueous layer is extracted with two 25 ml. portions of ether. The combined ether layers are dried over sodium sulfate, passed through diatomaceous earth, diluted with hexanes and evaporated on a steam bath. The resulting oil is chromatographed using methylene chloride on silica gel giving 0.52 g. of an oil which crystallizes. This material is taken up in methylene chloride. Hexanes are added and the mixture is evaporated, giving an oil with crystallizes. This material is recrystallized from carbon tetrachloride giving the desired product, mp. 67°-68° C.

reactant | m-fluorobenzonitrile | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium hydride | [H-].[Na+]
reactant | t-butanol | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
solvent | Methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | m-Fluorobenzimidoylacetonitrile | FC=1C=C(C(=N)CC#N)C=CC1 | C9H7FN2
